* Z:\mnt\design.r\spice\examples\1936.asc
XU1 N001 IN N003 0 N002 N005 N004 N004 LT1936
V1 IN 0 10
R3 IN N002 100K
L1 N003 OUT 10µ
C1 OUT 0 22µ
C2 N001 N003 .22µ
R2 N005 0 10K
R1 OUT N005 17.4K
C3 N002 0 .1µ
D1 OUT N001 1N4148
D2 0 N003 MBRS340
Rload OUT 0 2.75
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 2m startup
.lib LT1936.sub
.backanno
.end
